US07151105B2
Step 4: Acetic acid 6-chloro-4-iodo-pyridin-3-yl ester
Boron trifluoride diethyl etherate (6.2 mL, 48.9 mmol) was slowly added to a cooled −15° C. solution of 6-chloro-4-iodo-pyridin-3-ylamine (5.82 g, 22.9 mmol) dissolved in DME (36 mL) and CH2Cl2 (12 mL). Tert-butyl nitrite (3.6 mL, 27.6 mmol) was slowly added maintaining the temperature below −5° C. The reaction was stirred at −10° C. for 25 minutes and then at 0° C. for 20 minutes. The mixture was diluted with pentanes (100 mL) and the tetrafluoroborate diazonium salt was collected by filtration. The salt was dissolved immediately by dissolving it in acetic anhydride (20 mL) and heated to 95° C. for 2 hours. The reaction was cooled to room temperature and partitioned between diethyl ether and saturated NaHCO3. The organic layer was dried over MgSO4 and concentrated. Purification by silica gel chromatography (0% to 60% EtOAc in hexanes) gave the product as a white solid (3.34g, 49%). 1H NMR (300 MHz, CDCl3): δ 2.40 (s, 3 H), 7.82 (s, 1 H), 8.09 (s, 1 H).

reactant | Boron trifluoride diethyl etherate | 48.9 mmol, 6.2 mL | B(F)(F)F.CCOCC
reactant | 6-chloro-4-iodo-pyridin-3-ylamine | 22.9 mmol, 5.82 g | ClC1=CC(=C(C=N1)N)I | C5H4ClIN2
reactant | Tert-butyl nitrite | 27.6 mmol, 3.6 mL | N(=O)OC(C)(C)C | C4H9NO2
solvent | DME | 36 mL | COCCOC | C4H10O2
solvent | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
product | Acetic acid 6-chloro-4-iodo-pyridin-3-yl ester | 3.34g, 49% | ClC1=CC(=C(C=N1)OC(C)=O)I | C7H5ClINO2
